US05965589
According to the same manner as that described in Reference Example 34, ethyl 2-hydroxy-4-(4-isopropoxyphenyl)-butyrate was chlorinated with thionyl chloride to give ethyl 2-chloro-4-(4-isopropoxypheyl)butyrate as an oil (yield: 27%).

reactant | ethyl 2-hydroxy-4-(4-isopropoxyphenyl)-butyrate | OC(C(=O)OCC)CCC1=CC=C(C=C1)OC(C)C | C15H22O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | ethyl 2-chloro-4-(4-isopropoxypheyl)butyrate | yield: 27% | ClC(C(=O)OCC)CCC1=CC=C(C=C1)OC(C)C | C15H21ClO3
